US08975254B2
f) (S)-3-acetyl-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile (0.2 g, 0.728 mmol), 3-acetyl-1H-pyrazole-5-carboxylic acid (0.112 g, 0.728 mmol), HOBt (0.128 g, 0.946 mmol), DIPEA (0.165 ml, 0.946 mmol) and EDCI (0.181 g, 0.946 mmol) using the method of Example 34(d) affording 0.117 g of the title compound. 1H-NMR (400 MHz; CDCl3): δ 1.27 (d, 3H), 2.54 (s, 3H), 2.55 (s, 3H), 4.31 (m, 1H), 4.44 (m, 1H), 4.62 (m, 1H), 6.44 (d, 1H), 7.51 (d, 1H), 7.54 (s, 2H), 11.14 (m, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile | 0.728 mmol, 0.2 g | N[C@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)C)C | C14H15ClN4
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 0.728 mmol, 0.112 g | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | HOBt | 0.946 mmol, 0.128 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.946 mmol, 0.165 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.946 mmol, 0.181 g | CCN=C=NCCCN(C)C | C8H17N3
product | (S)-3-acetyl-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | 0.117 g | C(C)(=O)C1=NNC(=C1)C(=O)N[C@H](CN1N=C(C=C1)C1=C(C(=C(C=C1)C#N)Cl)C)C | C20H19ClN6O2
